US08304546B2
A 4N hydrochloric acid ethyl acetate solution (25 ml) was added to an ethanol solution (12 ml) of tert-butyl 4-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]acetylamino}piperidine-1-carboxylate (820 mg, 1.44 mmol), followed by stirring at room temperature for 28 hours. The resulting mixture was concentrated under reduced pressure. After adding an aqueous sodium bicarbonate solution to the residue to adjust the pH to 8, the residue was washed with ethyl acetate. A 2N aqueous sodium hydroxide solution was added to the water layer to adjust its pH to 11, followed by extraction using dichloromethane. The thus-obtained organic layer was washed with an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was recrystallized from ethanol-ethyl acetate, giving a white powder of 2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]-N-piperidin-4-ylacetamide (185 mg, yield: 27%).

reactant | hydrochloric acid ethyl acetate | 4N, 25 ml | C(C)OC(C)=O.Cl
reactant | tert-butyl 4-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]acetylamino}piperidine-1-carboxylate | 1.44 mmol, 820 mg | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC)=O | C31H38FN3O6
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]-N-piperidin-4-ylacetamide | 185 mg, yield: 27% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CC(=O)NC1CCNCC1)C1=CC=C(C=C1)OC)=O | C26H30FN3O4
